US08426437B2
8-[(4-tert-Butoxycarbonyl-cyclohexyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid is prepared according to synthesis 178, from 653 mg (2 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid, 334 mL (2.4 mmol) of triethylamine and 557 mg (2.6 mmol) of 4-methylamino-1-tert-butoxycarbonyl-piperidine to give, after purification by precipitation and trituration in water, 770 mg (76%) of 8-[(4-tert-butoxycarbonyl-cyclohexyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid in the form of a beige solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 2 mmol, 653 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | triethylamine | 2.4 mmol, 334 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methylamino-1-tert-butoxycarbonyl-piperidine | 2.6 mmol, 557 mg | CNC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
product | 8-[(4-tert-Butoxycarbonyl-cyclohexyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | C(C)(C)(C)OC(=O)C1CCC(CC1)N(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O)C | C24H29N3O7S
